US04303656
To a stirred solution of 2-(N-benzyl-N-methylaminomethyl)chroman-4-one (4.9 g) in dry diethyl ether (200 ml) under an atmosphere of dry nitrogen at room temperature, was added a two molar excess of phenyllithium solution and the resulting mixture was boiled for 2 hours before being poured onto ice/dilute HCl. The solution was basified and extracted with ether to give the crude 2-(N-benzyl-N-methylaminomethyl)-4-phenyl-4-hydroxychroman as an orange oil.

reactant | 2-(N-benzyl-N-methylaminomethyl)chroman-4-one | 4.9 g | C(C1=CC=CC=C1)N(C)CC1OC2=CC=CC=C2C(C1)=O | C18H19NO2
reactant | phenyllithium | C1(=CC=CC=C1)[Li]
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | 2-(N-benzyl-N-methylaminomethyl)-4-phenyl-4-hydroxychroman | C(C1=CC=CC=C1)N(C)CC1OC2=CC=CC=C2C(C1)(O)C1=CC=CC=C1 | C24H25NO2
